US07423159B2
A mixture of (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-{4-[(methylthio)methyl]phenyl}acrylamide (600 mg), m-chloroperbenzoic acid (780 mg) and tetrahydrofuran (50 mL) was stirred at 0° C. for 20 min. A saturated aqueous sodium sulfite solution was added to the reaction mixture, and the mixture was further stirred for 10 min. and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate, and then with saturated brine, dried (MgSO4) and concentrated. The obtained solid was recrystallized from acetone-hexane to give (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-[(methylsulfonyl) methyl]phenyl)acrylamide (490 mg, yield 75%) as colorless prism crystals. melting point: 251-252° C.

reactant | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-{4-[(methylthio)methyl]phenyl}acrylamide | 600 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CSC | C21H20FN3OS
reactant | m-chloroperbenzoic acid | 780 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-[(methylsulfonyl) methyl]phenyl)acrylamide | 490 mg, yield 75% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CS(=O)(=O)C | C21H20FN3O3S
